US06143760
A solution of 2-chloro-5-nitropyridine (1.59 g, 10 mmol) and benzylamine (2.3 mL, 21 mmol) in ethanol (10 mL) was heated at reflux for 2 h. The reaction mixture was allowed to ambient temperature, 1.2 N HCl was added, the precipitate collected, rinsed with water, and dried to give 2.02 g of 2-benzylamino-5-nitropyridine as a yellow solid.

reactant | 2-chloro-5-nitropyridine | 10 mmol, 1.59 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | benzylamine | 21 mmol, 2.3 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | HCl | 1.2 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-benzylamino-5-nitropyridine | 2.02 g | C(C1=CC=CC=C1)NC1=NC=C(C=C1)[N+](=O)[O-] | C12H11N3O2
